US09301526B2
Step 1: Preparation of 3-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]butan-2-one (Int-12)
6.00 g of 1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]acetone (Int-11) (27 mMol) (synthesis according to P10 and comm av.) and 5.75 g of methyl iodide (40.5 mMol) were diluted in 120 mL of dimethoxyethane. 3.03 g of potassium hydroxide were added portionwise at room temperature. After cooling, 100 mL of water were added to the reaction mixture which was extracted twice with 150 mL of ethyl acetate. The organic phase was washed twice with 100 mL of water, dried over magnesium sulfate and concentrated. After purification on silica, 0.67 g (39%) of desired product 3-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]butan-2-one (Int-12) were obtained, [M+1]=252.

reactant | 1-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]acetone | 27 mMol, 6.00 g | ClC=1C(=NC=C(C1)C(F)(F)F)CC(=O)C | C9H7ClF3NO
reactant | methyl iodide | 40.5 mMol, 5.75 g | CI | CH3I
reactant | potassium hydroxide | 3.03 g | [OH-].[K+]
reactant | water | 100 mL | O | H2O
solvent | dimethoxyethane | 120 mL | C(OC)COC | C4H10O2
product | 3-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]butan-2-one | 0.67 g, 39% | ClC=1C(=NC=C(C1)C(F)(F)F)C(C(C)=O)C | C10H9ClF3NO
